Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
penicillin G / Sudafed
 
Attending: ___.
 
Chief Complaint:
Right  BKA stump infection
 
Major Surgical or Invasive Procedure:
I+D for R BKA wound infection (___)

 
History of Present Illness:
___ s/p prior ankle injury with complication resulting in need 
for R BKA.  After her recent BKA, she was known to leave AMA but 
returned to clinic with Dr. ___ this week and found 
to have wound dehiscence and likely infection.  She presents now 
for I+D wound and ID care.
 
Past Medical History:
R ankle fracture, R BKA, chronic abdominal pain, sciatica, 
gastric
ulcer, tobacco use, PVD, narcotic dependence
 
Social History:
___
Family History:
none
 
Physical Exam:
RLE WWP distally
VAC sponge replaced with wet to dry
Hip and knee flexion/extension intact
Upset but NAD, pt demanding to leave hospital
 
Pertinent Results:
___ 11:09AM   WBC-10.7* RBC-2.93* HGB-6.8* HCT-25.9* MCV-88 
MCH-23.2* MCHC-26.3* RDW-20.0* RDWSD-63.9*
___ 11:09AM   PLT COUNT-234
___ 08:59AM   GLUCOSE-79 UREA N-25* CREAT-0.9 SODIUM-138 
POTASSIUM-4.5 CHLORIDE-111* TOTAL CO2-19* ANION GAP-13
 
Brief Hospital Course:
The patient was admitted to the Orthopaedic Service after I+D of 
her R BKA wound and VAC Placement.  She progressed well 
medically in the recovery area but became belligerent towards 
hospital staff.  She was seen by Vascular Surgery consult who 
recommended Ultrasound testing, she was also attempted to be 
seen by Nutrition but refused to speak with them.

She continued her medications and medical care on the floor, 
receiveing Empiric IV antibiotics and awaiting ID consult.  
Overnight on POD0 the patient demanded to leave and again became 
belligerent, resulting in security to be called and temporarily 
placed on ___ to avoid self harm.  

She was seen by Psychiatry who after assessment deemed her to 
have capacity, and on POD1 the patient again left against 
medical advice.  

Her VAC was removed prior to her leaving and clear instructions 
for the risks of her leaving, the risks of not returning to the 
OR as planned for repeat I+D, and need for ongoing followup.

The patient left in stable condition with instructions for 
outpatient followup.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid ___ mg PO BID 
2. Gabapentin 300 mg PO TID 
3. Gabapentin 600 mg PO QHS 
4. Levothyroxine Sodium 175 mcg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 40 mg PO DAILY 
7. Prochlorperazine ___ mg PO Q6H:PRN nausea 
8. Ranitidine 150 mg PO QHS 
9. rOPINIRole 3 mg PO QPM restless leg 
10. OxyCODONE (Immediate Release) 60 mg PO Q4H:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  Ascorbic Acid ___ mg PO BID  
4.  Gabapentin 300 mg PO TID  
5.  Gabapentin 600 mg PO QHS  
6.  Levothyroxine Sodium 175 mcg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  
8.  Omeprazole 40 mg PO DAILY  
9.  OxyCODONE (Immediate Release) 60 mg PO Q4H:PRN Pain - 
Moderate  
10.  Prochlorperazine ___ mg PO Q6H:PRN nausea  
11.  Ranitidine 150 mg PO QHS  
12.  rOPINIRole 3 mg PO QPM restless leg  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R BKA wound infection

 
Discharge Condition:
see psychiatry evaluation

 
Discharge Instructions:
Patient leaving AMA-Risks including death and further amputation 
were discussed with the patient. 

NON-NARCOTIC PAIN CONTROL

- Multi-modal pain control is critical. If you are able to take 
Tylenol (acetaminophen) I would strongly encourage you to do so 
according to the instructions on the bottle. Do not take more 
than 4,000 mg of Tylenol in 24 hours.
- NSAIDs (Advil, Motrin, Aleve, etc) are also excellent for pain 
control post-operatively. Do not take if you have had a bone 
fusion surgery, but for soft tissue procedures or most fracture 
surgeries these medications are acceptable unless you are unable 
to take for other medical reasons or unless we have specifically 
instructed you against it.
- Elevation with the operative site above the level of the heart 
will decrease swelling and improve pain control
- Ice or cold therapy may also be helpful. Do not keep ice or 
cold directly on the skin and do not use for more than ___ 
minutes to decrease risk of skin injury from the cold. Do NOT 
use ice when the block is still in effect as you will not know 
if you are injuring yourself. You may place the ice pack behind 
your knee if you have a bulky dressing on your foot. 
- Every little bit helps. The faster you can come off the 
narcotic medication the better. Most of my patients do not need 
narcotics after the first post-operative visit!

 ACTIVITY:

- You will likely have swelling after surgery. Please keep your 
leg elevated on ___ pillows at all times possible. You can apply 
a dry, covered, ice-bag on top of your dressing or behind your 
knee for 20 minutes at a time as often as you like.
- Unless instructed otherwise you should not put any weight down 
on your operated extremity until you come back for your first 
postoperative visit.

 CARE FOR YOUR DRESSING:

- You should continue wet to dry dressing changes daily and 
return for wound check in the clinic.
- It is not unusual to have a little bloody staining through 
your dressing. However please call the office for any concerns.
- Keep your dressing clean. You will have to cover it when you 
bath or shower. If it gets wet please call the office 
immediately.

 PREVENTION OF BLOOD CLOTS:

- You have been instructed to take medication in order to help 
prevent blood clots after surgery. Please take an aspirin 325 mg 
every day unless you have been specifically prescribed a 
different medication by me. If there is some reason why you 
cannot take aspirin please notify my office.
Physical Therapy:
NWB RLE BKA Stump
 
Followup Instructions:
___